US07737145B2
A solution of 4-(chlorocarbonyl)phenyl acetate (110 g, 553.87 mmol) in CH2Cl2 (500 mL) was cooled in an ice bath and treated with triethylamine (115 mL, 830 mmol, 1.5 equiv.) and 2,2-dimethoxyethanamine (63.36 mL, 581.56 mmol, 1.05 equiv.). The reaction mixture was allowed to warm to ambient temperature and the reaction was followed by TLC (CH2Cl2). The reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate and filtered. The filtrate was washed with water. The aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with water, dilute mono-potassium phosphate (pH=5.4, pH of solution about 7), water, and brine, dried, and concentrated to give 120 g (81% th.; 109% pract.) of 4-(2,2-dimethoxyethylcarbamoyl)phenyl acetate as a light brown waxy solid with no further purification; 1H NMR (CDCl3) δ 7.79 (d, 2H), 7.15 (d, 2H), 6.32 (br. t, 1H), 4.47 (t, 1H), 3.58 (d, 2H), 3.41 (s, 6H), 2.30 (s, 3H) ppm.

reactant | 4-(chlorocarbonyl)phenyl acetate | 553.87 mmol, 110 g | C(C)(=O)OC1=CC=C(C=C1)C(=O)Cl | C9H7ClO3
reactant | triethylamine | 830 mmol, 115 mL, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethoxyethanamine | 581.56 mmol, 63.36 mL, 1.05 equiv. | COC(CN)OC | C4H11NO2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dimethoxyethylcarbamoyl)phenyl acetate | 120 g | C(C)(=O)OC1=CC=C(C=C1)C(NCC(OC)OC)=O | C13H17NO5
